US06933311B2
N-(2,4-dichlorobenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea
1-Methyl-1H-indazol-4-amine (310 mg, 2.1 mmol) and 2,4-dichlorobenzyl isocyanate (0.3 mL, 2.06 mmol) were combined in toluene (10 mL) and heated for 2 hours at 80° C. The mixture was then allowed to cool to ambient temperature, filtered, and the filter cake was allowed to air-dry to provide the title compound. The corresponding hydrochloride salt was prepared by treatment with methanolic HCl. 1H NMR (300 MHz, d6-DMSO) δ 9.22 (s, 1H), 8.21 (d, J=1.0 Hz, 1H), 7.62-7.67 (m, 2H), 7.43-7.46 (m, 2H), 7.21-7.27 (m, 2H), 7.12 (m, 1H), 4.40 (d, J=5.5 Hz, 2H), 3.99 (s, 3H); MS (ESI+) m/z 349/351 (M+H, 35Cl/37CI)+.

reactant | 1-Methyl-1H-indazol-4-amine | 2.1 mmol, 310 mg | CN1N=CC=2C(=CC=CC12)N | C8H9N3
reactant | 2,4-dichlorobenzyl isocyanate | 2.06 mmol, 0.3 mL | ClC1=C(CN=C=O)C=CC(=C1)Cl | C8H5Cl2NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-dichlorobenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea | ClC1=C(CNC(=O)NC2=C3C=NN(C3=CC=C2)C)C=CC(=C1)Cl | C16H14Cl2N4O
